US05891889
A mixture of 2-acetoxymethyl-6-benzyloxypyridine (1.65 g, 6.4 mmol) and aqueous sodium hydroxide (0.58 mL, 40%) in methanol (10 mL) was stirred at room temp. overnight. The resulting solution was concentrated under vacuum, and the residue was partitioned between water and dichloromethane. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 0-5% ethyl acetate in chloroform gradient. Collection and concentration of appropriate fractions provided 2-benzyloxy-6-hydroxymethylpyridine as colorless oil.

reactant | 2-acetoxymethyl-6-benzyloxypyridine | 6.4 mmol, 1.65 g | C(C)(=O)OCC1=NC(=CC=C1)OCC1=CC=CC=C1 | C15H15NO3
reactant | sodium hydroxide | 0.58 mL | [OH-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | 2-benzyloxy-6-hydroxymethylpyridine | C(C1=CC=CC=C1)OC1=NC(=CC=C1)CO | C13H13NO2
